US04331676
4.4 g (40 mmol) of triethylamine and a solution of 2.8 ml (2 mmol) of isobutyl chloroformate in 20 ml of dry methylene chloride are added dropwise, in succession, to a solution, cooled to -10°, of 5.36 g (20 mmol) of 3-p-nitrobenzyloxycarbonylaminopropionic acid in 100 ml of dry methylene chloride. The reaction mixture is stirred for one hour at -18°, then for 11/2 hours a strong current of hydrogen sulphide is passed through and the mixture allowed to heat up to room temperature. After acidifying with 2 N sulphuric acid, again in the cold, the organic phase is separated, dried and concentrated in vacuo. The 3-p-nitrobenzyloxycarbonylaminothiopropionic acid obtained can be used without further purification.

reactant | triethylamine | 40 mmol, 4.4 g | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 2 mmol, 2.8 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 3-p-nitrobenzyloxycarbonylaminopropionic acid | 20 mmol, 5.36 g | [N+](=O)([O-])C1=CC=C(COC(=O)NCCC(=O)O)C=C1 | C11H12N2O6
reactant | hydrogen sulphide | S | H2S
reactant | sulphuric acid | 2 N | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-p-nitrobenzyloxycarbonylaminothiopropionic acid | [N+](=O)([O-])C1=CC=C(COC(=O)NCCC(=S)O)C=C1 | C11H12N2O5S
